US06423730B1
To a 3 L 4-neck RBF equipped with a mechanical stirrer, reflux condenser, thermometer and addition funnel was charged 358 g of ethyl chlorotrifluoroacetoacetate (1.64 moles), 2,2,2-trifluorothioacetamide and 1000 mL of acetonitrile. To this mixture was added 331.9 g of triethylamine (2.0 eq, 3.28 moles) dropwise over 2.5 hours. During the addition the temperature was maintained at 30-38° C. and upon completion of the addition the reaction was heated to reflux for 2 hours and stirred overnight at room temperature. The reaction mixture was filtered and the resulting filtrate was concentrated by rotary evaporation to provide an oily solid which was dissolved in 1500 mL of ethyl acetate. This was washed with 2×500 mL of water, 1×500 mL of brine and concentrated by rotary evaporation to yield 356.6 g of ethyl 2,4-bis-trifluoromethyl-5-thiazole carboxylate which was purified by distillation.

reactant | ethyl chlorotrifluoroacetoacetate | 1.64 moles, 358 g | ClC(C(=O)OCC)C(=O)C(F)(F)F | C6H6ClF3O3
reactant | 2,2,2-trifluorothioacetamide | FC(C(=S)N)(F)F | C2H2F3NS
reactant | acetonitrile | 1000 mL | C(C)#N | C2H3N
reactant | triethylamine | 3.28 moles, 331.9 g, 2.0 eq | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 1500 mL | C(C)(=O)OCC | C4H8O2
product | ethyl 2,4-bis-trifluoromethyl-5-thiazole carboxylate | 356.6 g | FC(C=1SC(=C(N1)C(F)(F)F)C(=O)OCC)(F)F | C8H5F6NO2S
